US04537924
1,3-Bis[N-n-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]cyclobutenediylium-2,4-diolate
Under agitation, 392.9 g (1.85 moles) of 4-n-butylamino-2,2,6,6-tetramethylpiperidine, 10.0 g (0.0877 mole) of quadratic acid, and 150 cc of 2-ethylhexanol were heated to boiling under reflux in a 1-liter agitated flask with water trap; s temperature rose from 205° to 217° C., and 2.8 cc of water was removed from the cycle. The reaction solution was then distilled. The residue was boiled with petroleum ether. After cooling, vacuum-filtering, and drying, 38.9 g was obtained (88.2% yield), mp 151°-152° C. Extinction (g/l.cm) at 278 nm: 25; at 335 nm: 83.

reactant | 4-n-butylamino-2,2,6,6-tetramethylpiperidine | 1.85 moles, 392.9 g | C(CCC)NC1CC(NC(C1)(C)C)(C)C | C13H28N2
reactant | quadratic acid | 0.0877 mole, 10.0 g | C1(=C(C(=O)C1=O)O)O | C4H2O4
solvent | 2-ethylhexanol | 150 cc | C(C)C(CO)CCCC | C8H18O
product | 1,3-Bis[N-n-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]cyclobutenediylium-2,4-diolate | 88.2% yield | C(CCC)N(C1CC(NC(C1)(C)C)(C)C)[C+]1[C+](C(=C1[O-])N(CCCC)C1CC(NC(C1)(C)C)(C)C)[O-] | InChI=1S/C30H55N4O2/c1-11-13-15-33(21-17-27(3,4)31-28(5,6)18-21)23-25(35)24(26(23)36)34(16-14-12-2)22-19-29(7,8)32-30(9,10)20-22/h21-22,31-32,35H,11-20H2,1-10H3/q+1/p-1
